US04086219
(b) Nα -Benzyloxycarbonyl-D-asparaginyl-L-leucine methyl ester
Nα -Benzyloxycarbonyl-D-asparagine, 5.325 g., and 3.814 g. of leucine methyl ester hydrochloride are dissolved in 50 ml. of dimethylformamide. The solution is cooled to 5° C. and treated slowly with 3.0 ml. of diphenylphosphorylazide in 10 ml. of dimethylformamide and 5.9 ml. of triethylamine in 10 ml. of dimethylformamide. The reaction is stirred with ice cooling for two and a half hours and at room temperature for three days. The mixture is filtered and the filtrate evaporated to dryness under reduced pressure. The residue is crystallized from ethyl acetate; 2.5 g.; m.p. 191°-193° C.; [α]D25 -14.4° (c 1.015, DMF). A further quantity of material, 1.25 g., is obtainable from the mother liquor of the crystallization.

reactant | Nα -Benzyloxycarbonyl-D-asparagine | C(C1=CC=CC=C1)OC(=O)N[C@H](CC(N)=O)C(=O)O | C12H14N2O5
reactant | leucine methyl ester hydrochloride | Cl.COC([C@@H](N)CC(C)C)=O
reactant | diphenylphosphorylazide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Nα -Benzyloxycarbonyl-D-asparaginyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)CC(C)C)=O | C19H27N3O6
